US08754226B2
tert-Butyl 4-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-3,3-dimethylpiperidine-1-carboxylate (0.81 g, 1.8 mmol) was dissolved in methanol (20 mL) and the mixture was purged with N2 by three vacuum pump/N2 balloon cycles. 10% Palladium on carbon (dry basis, wet, Degussa type, 0.5 g) was added and the system was purged with 1 atm H2 by three vacuum pump/H2 balloon cycles. The reaction was stirred under the H2 atmosphere until the starting material was consumed. The mixture was filtered through Celite® and concentrated to afford tert-butyl 4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3,3-dimethylpiperidine-1-carboxylate (0.59 g, 1.9 mmol, 100% yield) as a white solid.

reactant | tert-Butyl 4-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-3,3-dimethylpiperidine-1-carboxylate | 1.8 mmol, 0.81 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)C1C(CN(CC1)C(=O)OC(C)(C)C)(C)C)=O | C24H35N3O5
solvent | methanol | 20 mL | CO | CH4O
product | tert-butyl 4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3,3-dimethylpiperidine-1-carboxylate | 1.9 mmol, 0.59 g, 100% yield | N[C@@H]1C(N(CC1)C1C(CN(CC1)C(=O)OC(C)(C)C)(C)C)=O | C16H29N3O3
